US07705024B2
Preparation of 5-(5-bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid
A solution of potassium hydroxide (442 mg, 7.88 mmol) in methanol (7 mL) was added to a magnetically stirred solution of 5-(5-Bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester (2.0 g, 3.94 mmol) in methanol (15 mL). The mixture was heated under reflux for 3 h. The reaction mixture was cooled, poured into water, and acidified with 10% hydrochloric acid. The precipitate was filtered out, washed with water, and dried under vacuum to yield the corresponding acid (1.8 g, 95%) as a white solid.

reactant | potassium hydroxide | 7.88 mmol, 442 mg | [OH-].[K+]
reactant | 5-(5-Bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 3.94 mmol, 2.0 g | C(C)OC(=O)C1=NN(C(=C1C)C=1[Se]C(=CC1)Br)C1=C(C=C(C=C1)Cl)Cl | C17H13BrCl2N2O2Se
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 7 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | 5-(5-bromo-selenophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid | 1.8 g, 95% | BrC1=CC=C([Se]1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)C | C15H9BrCl2N2O2Se
